US07105517B2
To a suspension of N-[4-(2-amino-4-phenyl-thiazol-5-yl)-pyrimidin-2-yl]-N-(3-methoxycarbonyl-phenyl)-amine (800 mg, 2.0 mmol) in tetrahydrofuran (30 ml) is added a solution of methyl magnesium chloride (6 ml of a 20% THF solution) without cooling. The temperature of the reaction mixture rises to about +45° C. and the starting material dissolves immediately yielding a yellow clear solution. After an additional hour the solution is poured onto crushed ice and ammonium chloride. The colorless precipitate is filtered and washed with ethyl acetate and tetrahydrofuran. The organic phases are pooled, dried and concentrated under reduced pressure. Chromatography of the resulting solid gives the N-[4-(2-amino-4-phenyl-thiazol-5-yl)-pyrimidin-2-yl]-N-[3-(2-hydroxy-2-methyl-ethyl)-phenyl]-amine, m.p. 219–220° C.

reactant | N-[4-(2-amino-4-phenyl-thiazol-5-yl)-pyrimidin-2-yl]-N-(3-methoxycarbonyl-phenyl)-amine | 2.0 mmol, 800 mg | NC=1SC(=C(N1)C1=CC=CC=C1)C1=NC(=NC=C1)NC1=CC(=CC=C1)C(=O)OC | C21H17N5O2S
reactant | methyl magnesium chloride | C[Mg]Cl
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
reactant | THF | C1CCOC1 | C4H8O
product | N-[4-(2-amino-4-phenyl-thiazol-5-yl)-pyrimidin-2-yl]-N-[3-(2-hydroxy-2-methyl-ethyl)-phenyl]-amine | NC=1SC(=C(N1)C1=CC=CC=C1)C1=NC(=NC=C1)NC1=CC(=CC=C1)CC(C)O | C22H21N5OS
